US07585885B2
N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(2-methoxy-phenoxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride
Add 4M hydrogen chloride in dioxane (3 mL) to (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(2-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.061 g, 0.21 mmol). Stir 1 h and concentrate to give the title compound as a foam (0.05 g, 100%).

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(2-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.21 mmol, 0.061 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OC1=C(C=CC=C1)OC)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C30H38F2N2O6
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(2-methoxy-phenoxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride | 0.05 g, 100% | Cl.FC=1C=C(C[C@@H]([C@@H]([C@@H]2NC[C@@H](C2)OC2=C(C=CC=C2)OC)O)NC(C)=O)C=C(C1)F | InChI=1S/C22H26F2N2O4.ClH/c1-13(27)26-19(9-14-7-15(23)10-16(24)8-14)22(28)18-11-17(12-25-18)30-21-6-4-3-5-20(21)29-2;/h3-8,10,17-19,22,25,28H,9,11-12H2,1-2H3,(H,26,27);1H/t17-,18-,19+,22-;/m1./s1
